US04536395
The thus obtained amorphous L-glutamyl-L-prolyl-L-proline was dissolved in DMF (8 ml) and water (2 ml), and neutralized by addition of triethylamine (0.2 ml) while cooling to -5° C. Dibenzylphosphorylchloride carbon tetrachloride solution (3 m mole) and triethylamine were added dropwise to the mixture while keeping the temperature to not more than 5° C. and usually keeping the pH value to 8-9. The mixture was stirred for 3 hours at room temperature, and the solvent was distilled off under reduced pressure. The residue was dissolved in 5% sodium bicarbonate and then washed with ethyl acetate. The aqueous phase was acidified with 1N hydrochloric acid, and the desired product was extracted with ethyl acetate. The ethyl acetate phase was washed with sodium chloride solution and dried with anhydrous sodium sulfate. The ethyl acetate was distilled off under reduced pressure. The residue was re-precipitated with ethyl acetate-ethyl ether to obtain dibenzylphosphoryl-L-glutamyl-L-prolyl-L-proline (140 mg).

reactant | L-glutamyl-L-prolyl-L-proline | N[C@@H](CCC(O)=O)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C15H23N3O6
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | Dibenzylphosphorylchloride carbon tetrachloride | C(Cl)(Cl)(Cl)Cl.C(C1=CC=CC=C1)P(=O)(CC1=CC=CC=C1)Cl
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | 2 ml | O | H2O
product | dibenzylphosphoryl-L-glutamyl-L-prolyl-L-proline | 140 mg | C(C1=CC=CC=C1)P(=O)(CC1=CC=CC=C1)N[C@@H](CCC(O)=O)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C29H36N3O7P
